US05688807
5-Cyclohexyltryptamine hydrochloride was prepared (1.29 g) as described for 5-methyl-7-bromotryptamine hydrochloride in Example 4, except using 4-cyclohexylphenylhydrazine hydrochloride as starting material.

reactant | 5-methyl-7-bromotryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)Br
reactant | 4-cyclohexylphenylhydrazine hydrochloride | Cl.C1(CCCCC1)C1=CC=C(C=C1)NN
product | 5-Cyclohexyltryptamine hydrochloride | Cl.C1(CCCCC1)C1=CC=C2NC=C(CCN)C2=C1 | InChI=1S/C16H22N2.ClH/c17-9-8-14-11-18-16-7-6-13(10-15(14)16)12-4-2-1-3-5-12;/h6-7,10-12,18H,1-5,8-9,17H2;1H
